US05506244
To a stirred solution of L-tyrosine methyl ester hydrochloride (5.84 g, 25.3 mmol) and N-[(1,1-dimethylethoxy)carbonyl]amino]-cyclopentanecarboxylic acid (5.80 g, 25.3 mmol) in dichloromethane (100 mL) and triethylamine (3.52 mL, 25.3 retool) is added 1,3-dicyclohexylcarbodiimide (5.22 g, 25.3 retool) and 1-hydroxybenzotriazole (3.42 g, 25.3 mmol). The mixture is stirred for 16 hours and then the solid precipitate is filtered away. The organic phase is washed with a saturated solution of sodium bicarbonate (30 mL), brine, dried over MgSO4, filtered and concentrated under reduced pressure to give a white foam. The foam is purified by flash chromatography on silica gel, eluting with hexane-ethyl acetate (1:1). The pure fractions are concentrated and the resulting foam is crystallized from ethyl acetate-hexane to afford N-[[(1,1-dimethylethoxy)carbonyl]-amino]-1-cyclopentyl]carbonyl]-L-tyrosine methyl ester, m.p. 170°-171° C., [α]D =+6.45 (methanol, c 7.41 ).

reactant | L-tyrosine methyl ester hydrochloride | 25.3 mmol, 5.84 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | cyclopentanecarboxylic acid | 25.3 mmol, 5.80 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | 1,3-dicyclohexylcarbodiimide | 5.22 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 25.3 mmol, 3.42 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | triethylamine | 3.52 mL | C(C)N(CC)CC | C6H15N
product | L-tyrosine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
